US05055458
A solution of 4-(1-t-butyldimethylsilyloxy-3-diethoxyphosphorylmethoxyprop-2-oxyamino)-6-chloro-5-formamidopyrimidine (0.4 g, 0.76 mmol) in diethoxymethyl acetate (10 ml) was stirred at 120° C. for 4 hours. The solvents were evaporated, the residue dissloved in methanol (10 ml) and 0.88 ammonia (0.3 ml) and stirred for 1 hour. After evaporation, the residue was chromatographed on silica eluting with ethyl acetate and then with chloroform to give 9-(1-t-butyldimethylsilyloxy -3-diethoxyphosphorylmethoxyprop-2-oxy)-6-chloropurine (0.31 g, 80%) as a yellow oil. νmax (film) 3480, 1600, 1540, 1340, 1260, 1030, and 840 cm-1 ; δH [(CDCl3) 0.07(6H, s, (CH3)2Si), 0.87(9H, s, (CH3)3C), 1.35(6H, t, J7.1 Hz, 2×CH2CH3), 3.86(2H, d, J8.2 Hz, CH2P), 4.01 (4H, m, CH2OSi+CH2OCH2P), 4.18(4H, m, 2×CH2CH3), 4.59(1H, m, CHON); 8.43(1H, s, H-2/H-8), 8.76(1H, s, H-2/H-8); Found: MH+ 509.1726; C19H34N4O6ClPSi requires MH+ 509.1752.

reactant | 4-(1-t-butyldimethylsilyloxy-3-diethoxyphosphorylmethoxyprop-2-oxyamino)-6-chloro-5-formamidopyrimidine | 0.76 mmol, 0.4 g | [Si](C)(C)(C(C)(C)C)OCC(COCP(=O)(OCC)OCC)ONC1=NC=NC(=C1NC=O)Cl | C19H36ClN4O7PSi
solvent | diethoxymethyl acetate | 10 ml | C(C)(=O)OC(OCC)OCC | C7H14O4
product | 9-(1-t-butyldimethylsilyloxy -3-diethoxyphosphorylmethoxyprop-2-oxy)-6-chloropurine | 0.31 g, 80% | [Si](C)(C)(C(C)(C)C)OCC(COCP(=O)(OCC)OCC)ON1C2=NC=NC(=C2N=C1)Cl | C19H34ClN4O6PSi
